US09079930B2
Ethyl 4-((R)-(2,4-difluorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)-phenyl(methyl)phosphinate, 20-d, (866 mg, 2.5 mmol) was dissolved in HCl/dioxane (5 ml) and the mixture was stirred at room temperature for 1 h. Then it was concentrated under vacuum and the residue was washed with ethyl acetate to provide the product 20-e (781 mg, 96%).

reactant | Ethyl 4-((R)-(2,4-difluorophenyl)((R)-1,1-dimethylethylsulfinamido)methyl)-phenyl(methyl)phosphinate | FC1=C(C=CC(=C1)F)[C@@H](C1=CC=C(C=C1)P(OCC)(=O)C)N[S@](=O)C(C)(C)C | C20H26F2NO3PS
reactant | HCl dioxane | 5 ml | Cl.O1CCOCC1
product | Methyl 4-((R)-amino(2,4-difluorophenyl)methyl)phenyl(methyl)phosphinate hydrochloride | 781 mg, 96% | Cl.N[C@H](C1=CC=C(C=C1)P(OC)(=O)C)C1=C(C=C(C=C1)F)F | InChI=1S/C15H16F2NO2P.ClH/c1-20-21(2,19)12-6-3-10(4-7-12)15(18)13-8-5-11(16)9-14(13)17;/h3-9,15H,18H2,1-2H3;1H/t15-,21?;/m1./s1
